US06548677B1
Preparation of 3-(3-bromo-2-methyl-6-methylthiophenyl)-4,5-dihydroisoxazole
25 g (0.075 mol) of 3-(3,6-dibromo-2-methylphenyl)-4,5-dihydroisoxazole are initially charged in 12 mol of NMP. At a temperature of 100° C. and at a reduced pressure of 100 mbar, 29.3 g (0.09 mol) of a 21.5% strength methanolic solution of sodium thiomethoxide are added dropwise over a period of 40 min. The reaction mixture is stirred at 100° C. for 3 h and then stirred into 250 ml of water and extracted three times with 100 ml of toluene. The combined organic phases are washed once with 100 ml of water and then concentrated under reduced pressure. This gives 17.5 g of a dark oil. GC/MS shows, in addition to other isomers, 52.3% of the desired product. MSm/z: 287.

reactant | 3-(3,6-dibromo-2-methylphenyl)-4,5-dihydroisoxazole | 0.075 mol, 25 g | BrC=1C(=C(C(=CC1)Br)C1=NOCC1)C | C10H9Br2NO
reactant | NMP | 12 mol | CN1CCCC1=O | C5H9NO
reactant | sodium thiomethoxide | C[S-].[Na+]
solvent | water | 250 ml | O | H2O
product | 3-(3-bromo-2-methyl-6-methylthiophenyl)-4,5-dihydroisoxazole | BrC=1C(=C(C(=CC1)SC)C1=NOCC1)C | C11H12BrNOS
